US04490393
Into 50 ml of a dry pyridine solution containing 7.5 g of 2-amino-4-phenylthiazole, 4.8 g of phosgene was absorbed under cooling (about 5° C.). The temperature of the mixture was then allowed to rise to room temperature. To this solution, 7.5 g of 2-amino-4-phenylthiazole was added further. The mixture was stirred overnight. The pyridine was removed under reduced pressure and the residue was converted to powder in methyl alcohol. The powder was then recrystallized from an N,N-dimethylformamide/methyl alcohol mixed solvent to obtain 8.5 g of N,N'-bis(4-phenylthiazol-2-yl)urea.

reactant | 2-amino-4-phenylthiazole | 7.5 g | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | phosgene | 4.8 g | C(=O)(Cl)Cl | CCl2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N,N'-bis(4-phenylthiazol-2-yl)urea | 8.5 g | C1(=CC=CC=C1)C=1N=C(SC1)NC(=O)NC=1SC=C(N1)C1=CC=CC=C1 | C19H14N4OS2
